US08703922B2
Synthesis of mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)ascorbic acid
0.71 mL (5.1 mmol) of triethylamine was added and dissolved in a suspension of 0.82 g (4.63 mmol) of ascorbic acid in acetonitrile (9 mL). The above crude product of (5,9,13,17-tetramethyloctadec-4-enyl)tosylate was added at room temperature, and the reaction mixture was heated for 2 hours at 90° C. The reaction mixture was concentrated, and the resulting residue was purified by silica gel column chromatography (methanol/methylene chloride mixture) to obtain the title compound.

reactant | triethylamine | 5.1 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
reactant | ascorbic acid | 4.63 mmol, 0.82 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | (5,9,13,17-tetramethyloctadec-4-enyl)tosylate | CC(=CCCCOS(=O)(=O)C1=CC=C(C)C=C1)CCCC(CCCC(CCCC(C)C)C)C | C29H50O3S
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)ascorbic acid | CC(=CCCCOC=1C(=O)O[C@@H](C1O)[C@@H](O)CO)CCCC(CCCC(CCCC(C)C)C)C | C28H50O6
